US09234848B2
The amino acid Boc-L-Dpr-OH is purchased from Iris Biotech GmbH. Ninhydrin, phosphomolybdic acid and trifluoroacetic acid come from Sigma-Aldrich. Carboxytetramethylrhodamine and PyBOP are purchased from Novabiochem. The hexadecylamine comes from Aldrich and the DIEA from Alfa Aesar. 6-(4-(4-n-hexylbenzoyl)phenyl)hexanoic acid is synthesized according to the procedure mentioned above. The chemical reagents are used without any additional purification. CH2Cl2 and THF are distilled under an inert atmosphere (argon flow) and dried on CaH2 and sodium (in the presence of benzophenone) respectively. Chromatography is carried out on silica gel 60 (40-63 μm): the powder and the aluminum plates for the TLCs are purchased from Merck. The 1H and 13C NMR spectra are recorded on 300 MHz or 400 MHz Brucker apparatuses. The chemical shifts of the proton (a) are reported in ppm and the spectrum is calibrated relatively to the peak of the deuterated residual solvents. The coupling constants (J) are reported in Hz. The mass spectra (ES-MS) are recorded on a Mariner ESI/TOF mass spectrometer. For the compounds described for the first time, high resolution mass (HR-MS) is measured on a mass GC/TOF spectrometer from Agilent. The melting points are measured on a Buchi B-540. The HPLC analyses are carried out with a Jupiter 5u C4 300 Å column (150×4.6 mm, C4) from Phenomenex with a flow rate of 1 mL/min by using a linear gradient of 10 min from 0 to 100% of CH3CN in water (0.1% of TFA), followed by 5 mins at 100% CH3CN (0.1% of TFA). The retention times (Rt) of the HPLC analysis are shown in minutes.

reactant | Ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | hexadecylamine | C(CCCCCCCCCCCCCCC)N | C16H35N
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
catalyst | phosphomolybdic acid | OP(=O)O.O[Mo](=O)(=O)O
product | 6-(4-(4-n-hexylbenzoyl)phenyl)hexanoic acid | C(CCCCC)C1=CC=C(C(=O)C2=CC=C(C=C2)CCCCCC(=O)O)C=C1 | C25H32O3
